US06559145B2
N-(4-Chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro[1,7]-naphthyridine-3-carboxamide [BU.2]
At 0° C., a solution of 2.0M AlCl3 in toluene (0.14 mL) is added to a solution of 4-chlorobenzylamine (0.044 mL) in CH2Cl2 (5 mL). The compound from ethyl-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro[1,7]naphthyridine-3-carboxylate (Preparation 46, 0.058 g) is added and the mixture allowed to stir at room temperature for 3 hours at which time the mixture is partitioned between CH2Cl2 (30 mL) and water (30 mL). The organics are dried with Na2SO4, filtered and the solvent evaporated. The remaining solid is chromatographed with MeOH/CH2Cl2 (1-4%) to obtain 0.049 g (67%) of the title compound as an off-white solid. Physical characteristics: MS (ESI+) m/z 427 (M+H).

reactant | AlCl3 | 2.0M | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chlorobenzylamine | 0.044 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ethyl-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro[1,7]naphthyridine-3-carboxylate | 0.058 g | C(C)OC(=O)C1=CN(C2=CN=C(C=C2C1=O)CN1CCOCC1)C | C17H21N3O4
solvent | toluene | 0.14 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chlorobenzyl)-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro[1,7]-naphthyridine-3-carboxamide | 0.049 g, 67% | ClC1=CC=C(CNC(=O)C2=CN(C3=CN=C(C=C3C2=O)CN2CCOCC2)C)C=C1 | C22H23ClN4O3
